US07482456B2
Step 1: 3-bromo-5-[3-(methylthio)phenyl]pyridine
Prepared according to the procedure Coupling-2 using [3-(methylthio)phenyl]boronic acid and 3,5-dibromopyridine as starting material. Flash chromatography (Hex:EtOAc; 95:5-85:15) afforded the title compound.

reactant | [3-(methylthio)phenyl]boronic acid | CSC=1C=C(C=CC1)B(O)O | C7H9BO2S
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-bromo-5-[3-(methylthio)phenyl]pyridine | BrC=1C=NC=C(C1)C1=CC(=CC=C1)SC | C12H10BrNS
